US07652051B2
Synthesis of 5-[4-(Pyrimidin-5-yloxy)phenyl]-N-[3-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2-amine
4-(5-{[3-(trifluoromethyl)-phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol (160.6 mg, 0.5 mmol) was dissolved in 3 mL of anhydrous DMF in a 2-5 mL microwave vial (Personal Chemistry). Solid potassium bis(trimethylsilyl)amide (149.6 mg, 0.75 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 10 min, then 5-bromopyrimidine (119.2 mg, 0.75 mmol) was added, followed by anhydrous K2CO3 (69.1 mg, 0.5 mmol). Then the vial was capped and microwaved at 200° C. for 20 min. Then the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. Fractions, containing the product, were partitioned between ca. 40 mL of EtOAc and ca. 40 mL of saturated NaHCO3. EtOAc layer was washed with brine, dried over anhydrous Na2SO4 and filtered. Solvent was removed in vacuo to give the title product as a beige solid (87.0 mg). Yield 43.5%.

reactant | 4-(5-{[3-(trifluoromethyl)-phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol | 0.5 mmol, 160.6 mg | FC(C=1C=C(C=CC1)NC1=NN=C(O1)C1=CC=C(C=C1)O)(F)F | C15H10F3N3O2
reactant | potassium bis(trimethylsilyl)amide | 0.75 mmol, 149.6 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 5-bromopyrimidine | 0.75 mmol, 119.2 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | K2CO3 | 0.5 mmol, 69.1 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | 5-[4-(Pyrimidin-5-yloxy)phenyl]-N-[3-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2-amine | 87.0 mg, Yield 43.5% | N1=CN=CC(=C1)OC1=CC=C(C=C1)C1=NN=C(O1)NC1=CC(=CC=C1)C(F)(F)F | C19H12F3N5O2
